US08865682B2
To a solution of 5-fluorooxindole (7.5 g, 49 mmol) in THF (80 mL) at 0° C., was added 1 M LHMDS in THF (100 mL, 100 mmol). The reaction mixture was stirred at 0° C. for 20 minutes. A solution of 4-bromo-5,5-dimethyl-5H-furan-2-one (6.4 g, 33 mmol) in THF (20 mL) was added to the reaction mixture. The reaction was stirred at 0° C. for 30 minutes and then allowed to warm to room temperature over 5 hours. To the reaction mixture was added aqueous 2 M HCl (100 mL). The resulting mixture was stirred at 60-65° C. for 1 hour, cooled to room temperature, poured into water (3000 mL) and stirred at room temperature for 2 hours. The precipitates separated and were collected, washed with water, and dried in vacuo to provide 3-[4-bromo-5,5-dimethyl-5H-furan-(2E)-ylidene]-5-fluoro-1,3-dihydro-indol-2-one as a yellow solid (8.7 g, yield 80%), which was used for the next reaction without further purification.

reactant | 5-fluorooxindole | 49 mmol, 7.5 g | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | LHMDS | 1 M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 4-bromo-5,5-dimethyl-5H-furan-2-one | 33 mmol, 6.4 g | BrC1=CC(OC1(C)C)=O | C6H7BrO2
reactant | HCl | 2 M, 100 mL | Cl | ClH
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mmol, 100 mL | C1CCOC1 | C4H8O
solvent | water | 3000 mL | O | H2O
product | 3-[4-bromo-5,5-dimethyl-5H-furan-(2E)-ylidene]-5-fluoro-1,3-dihydro-indol-2-one | 8.7 g, yield 80% | BrC1=C/C(/OC1(C)C)=C/1\C(NC2=CC=C(C=C12)F)=O | C14H11BrFNO2
